US07211601B2
(2S,4EZ)-N-[(2RS)-2-hydroxy-2-(4-hydroxy-3-methoxyphenyl)ethyl]-1-[(2′-methly[1,1′-biphenyl]-4-yl)carbonyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′-methyl[1,1′-biphenyl]-4-carboxylic acid, and 4-[(1RS)-2-amino-1-hydroxyethyl]-2-methoxyphenol, the title compound was obtained in 67% purity by HPLC. MS(ESI+): m/z=518.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′-methyl[1,1′-biphenyl]-4-carboxylic acid | CC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C14H12O2
reactant | 4-[(1RS)-2-amino-1-hydroxyethyl]-2-methoxyphenol | NCC(O)C1=CC(=C(C=C1)O)OC | C9H13NO3
product | (2S,4EZ)-N-[(2RS)-2-hydroxy-2-(4-hydroxy-3-methoxyphenyl)ethyl]-1-[(2′-methly[1,1′-biphenyl]-4-yl)carbonyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide | OC(CNC(=O)[C@H]1N(CC(C1)=NOC)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C)C1=CC(=C(C=C1)O)OC | C29H31N3O6
